US04233305
Using the procedure of Example 13, methyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate and 2-[-4-(3-trifluoromethylphenyl)-piperazin-1-yl]-ethanol were reacted to obtain 2-[4-3-trifluoromethylphenyl)-piperazin-1-yl]-ethyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluorobenzoate. The said product was dissolved in absolute ethanol and an ethanolic solution of hydrogen chloride was added thereto followed by anhydrous ether. The mixture crystallized was vacuum filtered and the product was washed with anhydrous ether and was dried to form the desired hydrochloride salt melting at 230°-240° C.

reactant | methyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluoro-benzoate | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(C(=O)OC)C=C(C=C1)F)(F)F | C18H12F4N2O2
reactant | 2-[-4-(3-trifluoromethylphenyl)-piperazin-1-yl]-ethanol | FC(C=1C=C(C=CC1)N1CCN(CC1)CCO)(F)F | C13H17F3N2O
product | ethyl 2-(8-trifluoromethyl-4-quinolinylamino)-5-fluorobenzoate | FC(C=1C=CC=C2C(=CC=NC12)NC1=C(C(=O)OCC)C=C(C=C1)F)(F)F | C19H14F4N2O2
